US07989449B2
4-(2,3-Dihydro-benzofuran-5-yl)-4-[3-(3-methoxy-phenylamino)-phenyl]-4,5-dihydro-oxazol-2-ylamine
A microwave tube was charged with 4-(3-bromo-phenyl)-4-(2,3-dihydro-benzofuran-5-yl)-4,5-dihydro-oxazol-2-ylamine (Building Block K, 167 mg, 0.467 mmol, 1.0 eq), sodium tert-butoxide (89 mg, 0.933 mmol, 2.0 eq.), 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′biphenyl (18 mg, 0.042 mmol, 0.042 eq.), tris(dibenzylideneacetone)dipalladium (10 mg, 0.012 mmol, 0.025 eq.) and 3-methoxyaniline (115 mg, 0.933 mmol, 2.0 eq.). After three vacuum-nitrogen cycles, toluene was introduced (1 mL), the tube was sealed and stirred at 100° C. for 16 hours. After cooling to room temperature, water (1 mL) and ethyl acetate (1 mL) were added. The organic fraction of the reaction mixture was placed on an SCX column. This was then washed with dichloromethane/methanol. The desired product was obtained by eluting with 2 M ammonia in methanol. Fractions containing the compound were combined and the product purified further using preparative HPLC to yield 53 mg (30% yield) of the title compound as a white solid.

reactant | 4-(3-bromo-phenyl)-4-(2,3-dihydro-benzofuran-5-yl)-4,5-dihydro-oxazol-2-ylamine | 0.467 mmol, 167 mg, 1.0 eq | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C=1C=CC2=C(CCO2)C1 | C17H15BrN2O2
reactant | sodium tert-butoxide | 0.933 mmol, 89 mg, 2.0 eq. | CC(C)([O-])C.[Na+]
reactant | 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′biphenyl | 0.042 mmol, 18 mg, 0.042 eq. | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C(C)(C)C | C29H45P
reactant | 3-methoxyaniline | 0.933 mmol, 115 mg, 2.0 eq. | COC=1C=C(N)C=CC1 | C7H9NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.012 mmol, 10 mg, 0.025 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2,3-Dihydro-benzofuran-5-yl)-4-[3-(3-methoxy-phenylamino)-phenyl]-4,5-dihydro-oxazol-2-ylamine | O1CCC2=C1C=CC(=C2)C2(N=C(OC2)N)C2=CC(=CC=C2)NC2=CC(=CC=C2)OC | C24H23N3O3
